US08034895B2
Ethyl 2-aminothiophene-3-carboxylate
The same procedure as 2-aminothiophene-3-carbonitrile was used except replacing malononitrile with ethyl cyano acetate. 1H-NMR (CDCl3, 400 MHz): 6.95, 6.15, 4.26, 1.32.

reactant | 2-aminothiophene-3-carbonitrile | NC=1SC=CC1C#N | C5H4N2S
reactant | ethyl cyano acetate | CCOC(=O)CC#N | C5H7NO2
product | Ethyl 2-aminothiophene-3-carboxylate | NC=1SC=CC1C(=O)OCC | C7H9NO2S
